US05436252
5-(2-Thienyl)-2,4-dihydro-2,4-dimethyl-3H-1,2,4-triazol-3-one
When, in the procedure of Example 7, 5-(2-thienyl)-2,4-dihydro -4-methyl-3H-1,2,4-triazol-3-one is substituted for 5-(4-chlorophenyl)-2,4-dihydro-4-ethyl-3H-1,2,4-triazol-3-one, the title compound is obtained. Mp 108°-110° C.

reactant | 5-(2-thienyl)-2,4-dihydro -4-methyl-3H-1,2,4-triazol-3-one | S1C(=CC=C1)C=1N(C(NN1)=O)C | C7H7N3OS
reactant | 5-(4-chlorophenyl)-2,4-dihydro-4-ethyl-3H-1,2,4-triazol-3-one | ClC1=CC=C(C=C1)C=1N(C(NN1)=O)CC | C10H10ClN3O
product | 5-(2-Thienyl)-2,4-dihydro-2,4-dimethyl-3H-1,2,4-triazol-3-one | S1C(=CC=C1)C=1N(C(N(N1)C)=O)C | C8H9N3OS
